US07521448B2
A suspension of 4-{[3-(acetylamino)phenyl]amino}-3-nitrobenzoic acid (1.27 g, 4.04 mmol), Fe (1.77 g, 31.6 mmol, powder) in HCO2H (30 mL) and HC(OMe)3 (20 mL) was stirred under N2 at rt for 18 h. After this time, the reaction mixture was filtered through Celite, the cake washed with EtOH and the filtrate concentrated in vacuo. The resultant crude material was purified by column chromatography over silica gel eluting with 10% MeOH in DCM to afford 1-[3-(acetylamino)phenyl]-1H-benzimidazole-5-carboxylic acid. 1H NMR (400 MHz, DMSO-d6): δ 2.07 (s, 3H), 7.36 (d, J=8.4 Hz, 1H), 7.56 (t, J=8.0 Hz, 1H), 7.63 (d, J=8.4 Hz, 1H), 7.69 (d, J=8.8 Hz, 1H), 7.96 (d, J=8.8 Hz, 1H), 8.02 (s, 1H), 8.34 (s, 1H), 8.71 (s, 1H), 10.3 (s, 1H); MS (ES+): m/z 296 [MH+]

reactant | 4-{[3-(acetylamino)phenyl]amino}-3-nitrobenzoic acid | 4.04 mmol, 1.27 g | C(C)(=O)NC=1C=C(C=CC1)NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C15H13N3O5
reactant | HCO2H | 30 mL | C(=O)O | CH2O2
solvent | HC(OMe)3 | 20 mL | C(OC)(OC)OC | C4H10O3
catalyst | Fe | 31.6 mmol, 1.77 g | [Fe] | Fe
product | 1-[3-(acetylamino)phenyl]-1H-benzimidazole-5-carboxylic acid | C(C)(=O)NC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(=O)O | C16H13N3O3
